US07030196B2
A 12: 2,2,6,6-Tetramethyl-4-propoxypiperidin-1-yl acetate (112)
A mixture of 21.4 g (0.1 mol) of 4-propoxy-2,2,6,6-tetramethylpiperidine N-oxide (for preparation, see DE-A-4 219 459) and 11 g (0.108 mol) of acetic anhydride is hydrogenated to saturation at 4 bar over 0.15 g of platinum (10% on carbon). The catalyst is filtered off and the filtrate is diluted with 50 ml of t-butyl methyl ether, washed with cold 12% NaOH solution, 5% HCl and finally water, dried over MgSO4 and freed of the solvent on a rotary evaporator. This gives 18.1 g (70%) of the compound 112 which is in the form of a colourless oil.

reactant | 4-propoxy-2,2,6,6-tetramethylpiperidine N-oxide | 0.1 mol, 21.4 g | C(CC)OC1CC([NH+](C(C1)(C)C)[O-])(C)C | C12H25NO2
reactant | acetic anhydride | 0.108 mol, 11 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | platinum | 0.15 g | [Pt] | Pt
product | 2,2,6,6-Tetramethyl-4-propoxypiperidin-1-yl acetate | C(C)(=O)ON1C(CC(CC1(C)C)OCCC)(C)C | C14H27NO3
